US07863291B2
To 4-(4-methoxyphenyl)-5-methylthiazol-2-amine (0.98 g, 4.45 mmol) in acetonitrile (25 mL) was added di(1H-imidazol-1-yl)methanethione (1.03 g, 5.78 mmol). The reaction was stirred at 50° C. for 3 hours. The reaction was cooled to room temperature and the precipate was filtered. The powder was washed with acetonitrile (2×10 mL) and dried to yield racemic N-(4-(4-methoxyphenyl)-5-methylthiazol-2-yl)-1H-imidazole-1-carbothioamide (1.28 g, 3.87 mmol, 87% yield) as a yellow powder. The product was taken directly to the next step.

reactant | 4-(4-methoxyphenyl)-5-methylthiazol-2-amine | 4.45 mmol, 0.98 g | COC1=CC=C(C=C1)C=1N=C(SC1C)N | C11H12N2OS
reactant | di(1H-imidazol-1-yl)methanethione | 5.78 mmol, 1.03 g | N1(C=NC=C1)C(=S)N1C=NC=C1 | C7H6N4S
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | racemic N-(4-(4-methoxyphenyl)-5-methylthiazol-2-yl)-1H-imidazole-1-carbothioamide | 3.87 mmol, 1.28 g, 87% yield | COC1=CC=C(C=C1)C=1N=C(SC1C)NC(=S)N1C=NC=C1 | C15H14N4OS2
